US07465731B2
To a solution of ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-3-pyrrolidinyl]amino}-3-pyridyl)acrylate dihydrochloride (3.0 g) in 1,2-dichloroethane (30 mL) was added diisopropylethylamine (2.41 mL) and 3-fluorobenzaldehyde (857 mg), and the mixture was stirred at room temperature for 5 minutes. To the mixture was added sodium triacetoxyborohydride (3.1 g) and stirred for 3 hours, and resulting mixture was poured into sat NH4Cl aq solution, and extracted with AcOEt. The organic layer was washed with sat NH4Cl aq solution, water, and brine, and dried over Na2SO4. The solvent was removed in vacuo and the residual oil was purified by silica gel column chromatography eluted with AcOEt and hexane (1:1) to give ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-(2-fluorobenzyl)-3-pyrrolidinyl]amino}-3-pyridyl)acrylate (2.40 g) as colorless oil.

reactant | ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-3-pyrrolidinyl]amino}-3-pyridyl)acrylate dihydrochloride | 3.0 g | Cl.Cl.C(C)(C)(C)OC(=O)N(C1=CC=C(C=N1)/C=C/C(=O)OCC)[C@H]1CNCC1
reactant | diisopropylethylamine | 2.41 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-fluorobenzaldehyde | 857 mg | FC=1C=C(C=O)C=CC1 | C7H5FO
reactant | sodium triacetoxyborohydride | 3.1 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | 1,2-dichloroethane | 30 mL | ClCCCl | C2H4Cl2
product | ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-(2-fluorobenzyl)-3-pyrrolidinyl]amino}-3-pyridyl)acrylate | 2.40 g | C(C)(C)(C)OC(=O)N(C1=CC=C(C=N1)/C=C/C(=O)OCC)[C@H]1CN(CC1)CC1=C(C=CC=C1)F | C26H32FN3O4
